US04920116
N-(4-Fluorophenyl)-4-[(methylsulfonyl)amino]-N-[2-[(2-phenylethyl)(phenylmethyl)amino]ethyl]benzamide hydrochloride
In a manner similar to Example 1 react N-(4-fluorophenyl)-N'-(2-phenylethyl)-N'-phenylmethyl-1,2-ethanediamine with 4-[(methylsulfonyl)amino]benzoyl chloride to obtain the title compound.

reactant | N-(4-fluorophenyl)-N'-(2-phenylethyl)-N'-phenylmethyl-1,2-ethanediamine | FC1=CC=C(C=C1)NCCN(CC1=CC=CC=C1)CCC1=CC=CC=C1 | C23H25FN2
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
product | N-(4-Fluorophenyl)-4-[(methylsulfonyl)amino]-N-[2-[(2-phenylethyl)(phenylmethyl)amino]ethyl]benzamide hydrochloride | Cl.FC1=CC=C(C=C1)N(C(C1=CC=C(C=C1)NS(=O)(=O)C)=O)CCN(CC1=CC=CC=C1)CCC1=CC=CC=C1 | InChI=1S/C31H32FN3O3S.ClH/c1-39(37,38)33-29-16-12-27(13-17-29)31(36)35(30-18-14-28(32)15-19-30)23-22-34(24-26-10-6-3-7-11-26)21-20-25-8-4-2-5-9-25;/h2-19,33H,20-24H2,1H3;1H
